US09428512B2
Intermediate 2: 2-Butyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one
A solution of sodium hydroxide (1.44 g, 35.9 mmol) in water (7 mL) was added to a solution of ethyl 3-pentanimidamido-1H-pyrrole-2-carboxylate hydrochloride (2.46 g, 8.99 mmol) in ethanol (30 mL). The resultant mixture was heated at reflux for a total of 4 hours. The reaction mixture was cooled to room temperature and the pH adjusted to pH 6.5 with aqueous citric acid. The resultant mixture was extracted with ethyl acetate (2×50 mL). The combined organic phases were washed with saturated aqueous sodium chloride solution, dried (Na2SO4), filtered and evaporated to give the title compound as a pale brown solid (1.69 g).

reactant | sodium hydroxide | 35.9 mmol, 1.44 g | [OH-].[Na+]
reactant | ethyl 3-pentanimidamido-1H-pyrrole-2-carboxylate hydrochloride | 8.99 mmol, 2.46 g | Cl.C(CCCC)(NC1=C(NC=C1)C(=O)OCC)=N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 7 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-Butyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one | 1.69 g | C(CCC)C=1NC(C2=C(N1)C=CN2)=O | C10H13N3O
